US07112589B2
To a solution of NaCN (95 mg, 1.9 mmol) in water (1 ml) and DMSO (10 ml) are added 1,4-diazabicyclo[2,2,2]octane (48 mg, 0.43 mmol) and 2-chloro-4-(2,2-dimethyl-propylamino)-pyrimidine-5-carboxylic acid 4-methoxy-benzylamide (470 mg, 1.3 mmol) in DMSO (2 ml) successively at ambient temperature. After being stirred for 2 hours at 50° C., the reaction mixture is poured into cold water and extracted with AcOEt. The combined extracts are washed with water, brine and dried over MgSO4. The concentrated residue is purified by silica gel column chromatography (eluent:n-hexane:AcOEt=2:1) give 2-cyano-4-(2,2-dimethyl-propylamino)-pyrimidine-5-carboxylic acid 4-methoxy-benzylamide. Rf=0.45 (n-hexane:AcOEt=2:1). 1H NMR (400 MHz, DMSO-d6) δ 1.00 (s, 9H), 3.37 (d, 2H), 3.81 (s, 3H), 4.53 (d, 2H), 6.36 (brs, 1H), 6.89 (d, 2H), 7.25 (d, 2H), 8.28 (s, 1H), 9.08 (brs, 1H).

reactant | NaCN | 1.9 mmol, 95 mg | [C-]#N.[Na+]
reactant | 1,4-diazabicyclo[2,2,2]octane | 0.43 mmol, 48 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | 2-chloro-4-(2,2-dimethyl-propylamino)-pyrimidine-5-carboxylic acid 4-methoxy-benzylamide | 1.3 mmol, 470 mg | COC1=CC=C(CNC(=O)C=2C(=NC(=NC2)Cl)NCC(C)(C)C)C=C1 | C18H23ClN4O2
solvent | water | 1 ml | O | H2O
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 2-cyano-4-(2,2-dimethyl-propylamino)-pyrimidine-5-carboxylic acid 4-methoxy-benzylamide | COC1=CC=C(CNC(=O)C=2C(=NC(=NC2)C#N)NCC(C)(C)C)C=C1 | C19H23N5O2
